US04031226
A mixture of 4.4 parts of N-(2-chloroethyl)-2-pyridinecarboxamide, 13.8 parts of 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one, 3.3 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 24 hours. The reaction mixture is evaporated and the residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is converted into the hydrochloride salt in 2-propanol. The salt is filtered off and crystallized from ethanol, yielding 1.1 parts of N-[2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]dec-8-yl)ethyl]-2-pyridinecarboxamide dihydrochloride hydrate; mp. 250.5° C.

reactant | N-(2-chloroethyl)-2-pyridinecarboxamide | ClCCNC(=O)C1=NC=CC=C1 | C8H9ClN2O
reactant | 1-phenyl-1,3,8-triazaspiro[4,5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | potassium iodide | [I-].[K+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | N-[2-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]dec-8-yl)ethyl]-2-pyridinecarboxamide dihydrochloride hydrate | O.Cl.Cl.O=C1NCN(C12CCN(CC2)CCNC(=O)C2=NC=CC=C2)C2=CC=CC=C2 | InChI=1S/C21H25N5O2.2ClH.H2O/c27-19(18-8-4-5-11-22-18)23-12-15-25-13-9-21(10-14-25)20(28)24-16-26(21)17-6-2-1-3-7-17;;;/h1-8,11H,9-10,12-16H2,(H,23,27)(H,24,28);2*1H;1H2
